US20010014691A1
5-Methoxypyridin-3-ol
A mixture of concentrated sulfuric acid (18 M, 2.83 mL), water (3.84 mL) and crushed ice (6.60 g) was added to 5-methoxy-3-pyridylamine (1.64 g, 13.23 mmol). The cold mixture (0-5° C.) was stirred for 10 min and a solution of sodium nitrite (0.91 g, 13.23 mmol) in water (2.7 mL) was then added. After stirring for 10 min, a boiling solution of concentrated sulfuric acid (8.6 mL) and water (6.6 mL) was added. The mixture was heated until all solids dissolved. Ice (5.0 g) was added to cool the solution. The pH was adjusted to 8 with 10% NaOH solution. Saturated NaCl solution (100 mL) was added, and the mixture was extracted with ethyl acetate (4×100 mL). The combined ethyl acetate extracts were dried (MgSO4), filtered and concentrated by rotary evaporation to give 0.50 g (30.1%) of a brown oil.

reactant | sulfuric acid | 18 M, 2.83 mL | S(O)(O)(=O)=O | H2O4S
reactant | 5-methoxy-3-pyridylamine | 13.23 mmol, 1.64 g | COC=1C=C(C=NC1)N | C6H8N2O
reactant | sodium nitrite | 13.23 mmol, 0.91 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 8.6 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
reactant | NaCl | 100 mL | [Na+].[Cl-]
solvent | water | 2.7 mL | O | H2O
solvent | water | 6.6 mL | O | H2O
solvent | water | 3.84 mL | O | H2O
product | 5-Methoxypyridin-3-ol | 0.50 g, 30.1% | COC=1C=C(C=NC1)O | C6H7NO2
